US05436262
To a solution of 3 g of 2-[1-(2-ethoxyethyl)-l-benzimidazol-2-yl)]-1,3-bis-dimethylaminopropane dihydrochloride in 10 ml of water is added, at 0°-15° C. and under stirring, a molar excess of a saturated solution of sodium bicarbonate. After the development of the carbon dioxide is over, the mixture is repeatedly extracted with ethyl ether (2×8, 1×4 ml). The organic phases are collected together, washed with 4 ml of a saturated solution of sodium chloride, made anhydrous on sodium sulphate and evaporated to dryness under vacuum to obtain 2.1 g of 2-[1-(2-ethoxyethyl)benzimidazol-2-yl)]-1,3-bis-dimethylaminopropane as an oil. IR (film): 3390 (broad), 2775, 2825, 2855, 2950, 2975, 1618, 1505 cm-1.

reactant | 1,3-bis-dimethylaminopropane dihydrochloride | Cl.Cl.CN(CCCN(C)C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 10 ml | O | H2O
product | 1,3-bis-dimethylaminopropane | CN(CCCN(C)C)C | C7H18N2
